US08603944B2
About 2 g of 1-(2-Hydroxyethyl)-3,3-dimethylindolino-6′-nitrobenzopyrylospiran (TCI America), about 0.44 ml of triethylamine, and about 0.69 g of 4-(dimethylamino)pyridine were dissolved in about 30 ml of dichloromethane. After addition of about 0.59 g of succinic anhydride, the solution was stirred under Ar at room temperature for about 19 hours. The mixture was washed with 5% aqueous hydrochloric acid, aqueous sodium bicarbonate, and water, then dried over magnesium sulfate. After the solvent was distilled off, the concentrated solution was added dropwise to hexane under stirring. The resulting solid was collected by filtration to yield 4-(2-(3′,3′-dimethyl-6-nitrospiro[chromene-2,2′-indoline]-1′-yl)ethoxy)-4-oxobutanoic acid.

reactant | 1-(2-Hydroxyethyl)-3,3-dimethylindolino-6′-nitrobenzopyrylospiran | 2 g | CC1(C2=CC=CC=C2N(C13C=CC4=C(O3)C=CC(=C4)[N+](=O)[O-])CCO)C | C20H20N2O4
reactant | triethylamine | about 0.44 ml | C(C)N(CC)CC | C6H15N
reactant | succinic anhydride | about 0.59 g | C1(CCC(=O)O1)=O | C4H4O3
catalyst | 4-(dimethylamino)pyridine | about 0.69 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | about 30 ml | ClCCl | CH2Cl2
product | 4-(2-(3′,3′-dimethyl-6-nitrospiro[chromene-2,2′-indoline]-1′-yl)ethoxy)-4-oxobutanoic acid | CC1(C2(N(C3=CC=CC=C13)CCOC(CCC(=O)O)=O)OC1=CC=C(C=C1C=C2)[N+](=O)[O-])C | C24H24N2O7
